US07846959B2
To a solution of 3-(3,4-diaminophenyl)-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (100 mg, 0.289 mmol) and methyl isothiocyanate (31 mg, 0.434 mmol) in tetrahydrofuran (30 mL) was added 1-[3-dimethylamino)propyl]-3-ethylcarbodiimmide hydrochloride (89 mg, 0.462 mmol) at room temperature. The reaction mixture was heated to 65° C. and stirred for 3 h, at which time it was cooled to room temperature and partitioned with water and a mixture of acetonitrile-ethyl acetate (1:9, 200 mL). The organic layer was washed with water and brine then dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by column chromatography (SiO2, methanol/dichloromethane) to afford 3-hydroxy-3-[2-(methylamino)-1H-benzimidazol-5-yl]-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (3.3 mg). 1H NMR (400 MHz, CD3OD): 7.79 (d, 1H), 7.54-7.48 (m, 2H), 7.29-7.26 (m, 2H), 7.18-7.16 (m, 2H), 7.11-7.01 (m, 4H), 6.86 (dd, 1H), 4.57 (d, 1H), 4.34 (d, 1H), 2.96 (s, 3H); MS (EI) for C23H20N4O2: 385 (MH+).

reactant | 3-(3,4-diaminophenyl)-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 0.289 mmol, 100 mg | NC=1C=C(C=CC1N)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)O | C21H19N3O2
reactant | methyl isothiocyanate | 0.434 mmol, 31 mg | CN=C=S | C2H3NS
reactant | hydrochloride | 0.462 mmol, 89 mg | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-hydroxy-3-[2-(methylamino)-1H-benzimidazol-5-yl]-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 3.3 mg | OC1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)C1=CC2=C(NC(=N2)NC)C=C1 | C23H20N4O2
